** Name: SimpleTwoStageOpAmp_SimpleOpAmp53_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp53_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=9e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=6e-6 W=592e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=6e-6 W=259e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=2e-6 W=15e-6
mDiodeTransistorPmos5 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=205e-6
mDiodeTransistorPmos7 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=16e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=67e-6
mNormalTransistorNmos9 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=61e-6
mNormalTransistorNmos10 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=6e-6 W=259e-6
mNormalTransistorNmos11 outInputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=75e-6
mNormalTransistorNmos12 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=6e-6 W=592e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=41e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=41e-6
mNormalTransistorNmos15 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=247e-6
mNormalTransistorPmos16 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=205e-6
mNormalTransistorPmos17 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=367e-6
mNormalTransistorPmos18 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=367e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=71e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=71e-6
mNormalTransistorPmos21 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 7.80001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp53_5

** Expected Performance Values: 
** Gain: 117 dB
** Power consumption: 12.5421 mW
** Area: 14929 (mu_m)^2
** Transit frequency: 8.62401 MHz
** Transit frequency with error factor: 8.62358 MHz
** Slew rate: 28.6736 V/mu_s
** Phase margin: 65.3172°
** CMRR: 128 dB
** VoutMax: 3.07001 V
** VoutMin: 0.580001 V
** VcmMax: 4.69001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 82.5351 muA
** NormalTransistorNmos: 74.0271 muA
** NormalTransistorPmos: -188.325 muA
** NormalTransistorPmos: -322.845 muA
** NormalTransistorPmos: -188.323 muA
** NormalTransistorPmos: -322.843 muA
** DiodeTransistorNmos: 188.326 muA
** DiodeTransistorNmos: 188.325 muA
** NormalTransistorNmos: 188.324 muA
** NormalTransistorNmos: 188.325 muA
** NormalTransistorNmos: 269.039 muA
** NormalTransistorNmos: 134.52 muA
** NormalTransistorNmos: 134.52 muA
** NormalTransistorNmos: 1696.22 muA
** NormalTransistorPmos: -1696.21 muA
** DiodeTransistorPmos: -1696.21 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -82.5359 muA
** NormalTransistorPmos: -82.5369 muA
** DiodeTransistorPmos: -74.0279 muA
** DiodeTransistorPmos: -74.0289 muA


** Expected Voltages: 
** ibias: 0.633001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX2: 2.41001  V
** out: 2.5  V
** outFirstStage: 0.981001  V
** outInputVoltageBiasXXpXX1: 2.50601  V
** outSourceVoltageBiasXXpXX1: 3.75301  V
** outSourceVoltageBiasXXpXX2: 3.72001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.555001  V
** innerTransistorStack2Load2: 0.553001  V
** out1: 1.18601  V
** sourceGCC1: 3.21301  V
** sourceGCC2: 3.21301  V
** sourceTransconductance: 1.47001  V
** inner: 3.74701  V


.END