** Name: SimpleTwoStageOpAmp_SimpleOpAmp53_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp53_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=7e-6
mDiodeTransistorNmos2 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=4e-6 W=354e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=4e-6 W=354e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=569e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=466e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=290e-6
mNormalTransistorNmos7 out ibias sourceNmos sourceNmos nmos4 L=3e-6 W=600e-6
mNormalTransistorNmos8 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=4e-6 W=354e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=4e-6 W=354e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=23e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=23e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=127e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=4e-6 W=503e-6
mNormalTransistorPmos14 outFirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=403e-6
mNormalTransistorPmos15 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=403e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=306e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=306e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 9.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp53_7

** Expected Performance Values: 
** Gain: 111 dB
** Power consumption: 9.04401 mW
** Area: 13615 (mu_m)^2
** Transit frequency: 4.46401 MHz
** Transit frequency with error factor: 4.46413 MHz
** Slew rate: 17.9929 V/mu_s
** Phase margin: 65.3172°
** CMRR: 136 dB
** VoutMax: 4.38001 V
** VoutMin: 0.220001 V
** VcmMax: 5.18001 V
** VcmMin: 1.27001 V


** Expected Currents: 
** NormalTransistorNmos: 406.731 muA
** NormalTransistorPmos: -178.026 muA
** NormalTransistorPmos: -267.038 muA
** NormalTransistorPmos: -178.03 muA
** NormalTransistorPmos: -267.044 muA
** DiodeTransistorNmos: 178.029 muA
** DiodeTransistorNmos: 178.03 muA
** NormalTransistorNmos: 178.031 muA
** NormalTransistorNmos: 178.03 muA
** NormalTransistorNmos: 178.028 muA
** NormalTransistorNmos: 89.0131 muA
** NormalTransistorNmos: 89.0131 muA
** NormalTransistorNmos: 858.061 muA
** NormalTransistorPmos: -858.06 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -406.73 muA
** DiodeTransistorPmos: -406.731 muA


** Expected Voltages: 
** ibias: 0.629001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.45101  V
** out: 2.5  V
** outFirstStage: 3.81501  V
** outSourceVoltageBiasXXpXX1: 4.21401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.559001  V
** innerTransistorStack2Load2: 0.559001  V
** out1: 1.11801  V
** sourceGCC1: 4.17201  V
** sourceGCC2: 4.17201  V
** sourceTransconductance: 1.45101  V


.END