** Name: SimpleTwoStageOpAmp_SimpleOpAmp53_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp53_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=9e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=87e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=18e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos5 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=11e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=21e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=4e-6 W=591e-6
mNormalTransistorNmos8 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=1e-6 W=12e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=18e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=21e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=21e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=71e-6
mNormalTransistorNmos13 SecondStageYinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=599e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=323e-6
mNormalTransistorPmos15 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=562e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=220e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=488e-6
mNormalTransistorPmos18 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=562e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=600e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 7.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp53_8

** Expected Performance Values: 
** Gain: 111 dB
** Power consumption: 12.9111 mW
** Area: 10285 (mu_m)^2
** Transit frequency: 6.68901 MHz
** Transit frequency with error factor: 6.68885 MHz
** Slew rate: 25.9958 V/mu_s
** Phase margin: 65.3172°
** CMRR: 124 dB
** VoutMax: 4.25 V
** VoutMin: 0.540001 V
** VcmMax: 5.17001 V
** VcmMin: 1.20001 V


** Expected Currents: 
** NormalTransistorPmos: -105.921 muA
** NormalTransistorPmos: -233.632 muA
** NormalTransistorPmos: -194.31 muA
** NormalTransistorPmos: -291.464 muA
** NormalTransistorPmos: -194.31 muA
** NormalTransistorPmos: -291.464 muA
** DiodeTransistorNmos: 194.311 muA
** DiodeTransistorNmos: 194.31 muA
** NormalTransistorNmos: 194.311 muA
** NormalTransistorNmos: 194.31 muA
** NormalTransistorNmos: 194.31 muA
** NormalTransistorNmos: 97.1551 muA
** NormalTransistorNmos: 97.1551 muA
** NormalTransistorNmos: 1639.78 muA
** NormalTransistorNmos: 1639.78 muA
** NormalTransistorPmos: -1639.77 muA
** DiodeTransistorNmos: 105.922 muA
** DiodeTransistorNmos: 233.633 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.32201  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXpXX1: 4.20401  V
** outVoltageBiasXXnXX1: 1.14701  V
** outVoltageBiasXXnXX2: 0.584001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.761001  V
** innerTransistorStack2Load2: 0.758001  V
** out1: 1.60201  V
** sourceGCC1: 4.08201  V
** sourceGCC2: 4.08201  V
** sourceTransconductance: 1.47401  V
** innerStageBias: 0.379001  V


.END