** Name: SimpleTwoStageOpAmp_SimpleOpAmp54_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp54_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=16e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=17e-6
mDiodeTransistorPmos3 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=354e-6
mNormalTransistorNmos6 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=192e-6
mNormalTransistorNmos7 FirstStageYinnerSourceLoad2 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=192e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=23e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=23e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=36e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=36e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=112e-6
mNormalTransistorNmos13 SecondStageYinnerStageBias inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=597e-6
mNormalTransistorPmos14 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=354e-6
mNormalTransistorPmos15 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=49e-6
mNormalTransistorPmos16 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=173e-6
mNormalTransistorPmos17 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=200e-6
mNormalTransistorPmos18 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=200e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=390e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=390e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 8.90001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp54_8

** Expected Performance Values: 
** Gain: 111 dB
** Power consumption: 14.8781 mW
** Area: 4776 (mu_m)^2
** Transit frequency: 7.91801 MHz
** Transit frequency with error factor: 7.91741 MHz
** Slew rate: 31.1084 V/mu_s
** Phase margin: 65.3172°
** CMRR: 122 dB
** VoutMax: 4.25 V
** VoutMin: 0.530001 V
** VcmMax: 5.17001 V
** VcmMin: 1.33001 V


** Expected Currents: 
** NormalTransistorPmos: -358.912 muA
** NormalTransistorPmos: -49.2939 muA
** NormalTransistorPmos: -231.077 muA
** NormalTransistorPmos: -395.411 muA
** NormalTransistorPmos: -231.077 muA
** NormalTransistorPmos: -395.411 muA
** NormalTransistorNmos: 231.078 muA
** NormalTransistorNmos: 231.077 muA
** NormalTransistorNmos: 231.078 muA
** NormalTransistorNmos: 231.077 muA
** NormalTransistorNmos: 328.666 muA
** NormalTransistorNmos: 164.334 muA
** NormalTransistorNmos: 164.334 muA
** NormalTransistorNmos: 1756.54 muA
** NormalTransistorNmos: 1756.54 muA
** NormalTransistorPmos: -1756.53 muA
** DiodeTransistorNmos: 358.913 muA
** DiodeTransistorNmos: 49.2931 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.39801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.13201  V
** inputVoltageBiasXXnXX2: 0.591001  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.748001  V
** innerTransistorStack1Load2: 0.558001  V
** innerTransistorStack2Load2: 0.558001  V
** sourceGCC1: 4.21501  V
** sourceGCC2: 4.21501  V
** sourceTransconductance: 1.35701  V
** innerStageBias: 0.386001  V


.END