** Name: SimpleTwoStageOpAmp_SimpleOpAmp55_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp55_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=6e-6 W=31e-6
mDiodeTransistorNmos2 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=8e-6 W=31e-6
mDiodeTransistorNmos3 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=386e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=78e-6
mNormalTransistorNmos6 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=6e-6 W=31e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=487e-6
mNormalTransistorNmos8 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=8e-6 W=31e-6
mNormalTransistorNmos9 out outFirstStage sourceNmos sourceNmos nmos4 L=7e-6 W=214e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=24e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=24e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=18e-6
mNormalTransistorNmos13 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=563e-6
mNormalTransistorPmos14 outFirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=18e-6
mNormalTransistorPmos15 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=579e-6
mNormalTransistorPmos16 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=18e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=17e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=17e-6
Capacitor1 outFirstStage out 2.30001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp55_1

** Expected Performance Values: 
** Gain: 119 dB
** Power consumption: 12.9091 mW
** Area: 5917 (mu_m)^2
** Transit frequency: 8.99101 MHz
** Transit frequency with error factor: 8.99081 MHz
** Slew rate: 9.27384 V/mu_s
** Phase margin: 69.9009°
** CMRR: 138 dB
** VoutMax: 4.68001 V
** VoutMin: 0.630001 V
** VcmMax: 5.09001 V
** VcmMin: 0.780001 V


** Expected Currents: 
** NormalTransistorNmos: 791.965 muA
** NormalTransistorNmos: 695.746 muA
** NormalTransistorPmos: -17.6809 muA
** NormalTransistorPmos: -30.3119 muA
** NormalTransistorPmos: -17.6789 muA
** NormalTransistorPmos: -30.3099 muA
** DiodeTransistorNmos: 17.6801 muA
** NormalTransistorNmos: 17.6791 muA
** NormalTransistorNmos: 17.6781 muA
** DiodeTransistorNmos: 17.6791 muA
** NormalTransistorNmos: 25.2611 muA
** NormalTransistorNmos: 12.6301 muA
** NormalTransistorNmos: 12.6301 muA
** NormalTransistorNmos: 1023.43 muA
** NormalTransistorPmos: -1023.42 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -791.964 muA
** DiodeTransistorPmos: -695.745 muA


** Expected Voltages: 
** ibias: 0.588001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 1.03701  V
** outVoltageBiasXXpXX2: 4.12001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.606001  V
** innerTransistorStack1Load2: 0.604001  V
** out1: 1.24201  V
** sourceGCC1: 4.48401  V
** sourceGCC2: 4.48401  V
** sourceTransconductance: 1.90101  V


.END