** Name: SimpleTwoStageOpAmp_SimpleOpAmp5_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp5_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=12e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=64e-6
mNormalTransistorNmos3 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=88e-6
mNormalTransistorNmos4 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=6e-6 W=83e-6
mNormalTransistorNmos5 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=5e-6 W=69e-6
mNormalTransistorNmos6 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=5e-6 W=69e-6
mNormalTransistorNmos7 FirstStageYinnerSourceLoad1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=6e-6 W=83e-6
mNormalTransistorPmos8 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=98e-6
mNormalTransistorPmos9 out ibias sourcePmos sourcePmos pmos4 L=3e-6 W=536e-6
mNormalTransistorPmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=26e-6
mNormalTransistorPmos11 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=26e-6
mNormalTransistorPmos12 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=335e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp5_1

** Expected Performance Values: 
** Gain: 87 dB
** Power consumption: 0.864001 mW
** Area: 5553 (mu_m)^2
** Transit frequency: 4.07201 MHz
** Transit frequency with error factor: 4.05921 MHz
** Slew rate: 6.60055 V/mu_s
** Phase margin: 65.3172°
** CMRR: 92 dB
** negPSRR: 94 dB
** posPSRR: 140 dB
** VoutMax: 4.84001 V
** VoutMin: 0.150001 V
** VcmMax: 3.52001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -15.3909 muA
** NormalTransistorNmos: 26.3971 muA
** NormalTransistorNmos: 26.3961 muA
** NormalTransistorNmos: 26.3971 muA
** NormalTransistorNmos: 26.3961 muA
** NormalTransistorPmos: -52.7969 muA
** NormalTransistorPmos: -26.3979 muA
** NormalTransistorPmos: -26.3979 muA
** NormalTransistorNmos: 84.6361 muA
** NormalTransistorPmos: -84.6369 muA
** DiodeTransistorNmos: 15.3901 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.27401  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.705001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.555001  V
** innerTransistorStack1Load1: 0.150001  V
** innerTransistorStack2Load1: 0.150001  V
** sourceTransconductance: 3.81401  V


.END